US05824679
A solution of 34.4 ml (490 mmol) acetyl chloride in 250 ml glacial acetic acid was added dropwise to a suspension of 105 g (380 mmol) 2-(2,3,5,6-tetrachloropyridin-4-ylamino)-ethanol in 860 ml glacial acetic acid. During this the temperature increased to 40° C. After 2 h it was poured onto ice water, filtered, washed with water, the residue was dissolved in 500 ml ethyl acetate, dried over sodium sulfate, filtered and the solvent was removed in a vacuum. 112 g (93%) acetic acid-2(2,3,5,6-tetrachloropyridin-4-ylamino)-ethyl ester was obtained and was reacted without further purification. MS (m/e)=316.

reactant | acetyl chloride | 490 mmol, 34.4 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-(2,3,5,6-tetrachloropyridin-4-ylamino)-ethanol | 380 mmol, 105 g | ClC1=NC(=C(C(=C1Cl)NCCO)Cl)Cl | C7H6Cl4N2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 860 ml | C(C)(=O)O | C2H4O2
product | acetic acid-2(2,3,5,6-tetrachloropyridin-4-ylamino)-ethyl ester | 112 g, 93% | ClC1=NC(=C(C(=C1Cl)NCCOC(C)=O)Cl)Cl | C9H8Cl4N2O2
